US07553852B2
(S)-2-(2-amino-5-chloro-benzoylamino)-butyric acid-tert-butyl ester
To a stirred solution of (S)-2-(5-chloro-2-nitro-benzoylamino)-butyric acid-tert-butyl ester (5.72 g,) in ethanol (250 ml) at ambient temperature was added tin(II)chloride bis-hydrate (18.8 g). The mixture was stirred at ambient for 16 hours. The volume was reduced to approximately 50 ml under reduced pressure, and reaction mixture was then diluted with 1M NaOH until the precipitate formed re-dissolved (400 ml). The aqueous was then extracted with diethyl ether (3×100 ml). The organic extracts were combined and washed with brine, dried (MgSO4), and concentrated to give the sub-titled compound as a yellow solid (4.60 g, 88% yield). 1H NMR (400 MHz, CDCl3) δ 7.4 (1H, s), 7.2 (1H, d), 6.6 (2H, m), 5.5 (2H, m), 4.6 (1H, m), 2.0 (1H, m), 1.85 (1H, m), 1.5 (9H, s), 0.95 (3H, t) ppm.

reactant | (S)-2-(5-chloro-2-nitro-benzoylamino)-butyric acid-tert-butyl ester | 5.72 g | C(C)(C)(C)OC([C@H](CC)NC(C1=C(C=CC(=C1)Cl)[N+](=O)[O-])=O)=O | C15H19ClN2O5
reactant | tin(II)chloride bis-hydrate | 18.8 g | O.O.[Sn](Cl)Cl
solvent | ethanol | 250 ml | C(C)O | C2H6O
solvent | NaOH | 1M | [OH-].[Na+]
product | (S)-2-(2-amino-5-chloro-benzoylamino)-butyric acid-tert-butyl ester | 4.60 g, 88% yield | C(C)(C)(C)OC([C@H](CC)NC(C1=C(C=CC(=C1)Cl)N)=O)=O | C15H21ClN2O3
